datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+](C)(C)CCc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)CCc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O:21][H:20].OB(O)c1cccc([NH2:10])c1>>O=C(C(c1ccc(C2CCCCC2)cc1)C(O)c1ccccc1)[O-:21].OB(O)c1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"CC(C)(C(=O)[O-:10])C(C#N)c1ccccc1.O=C(C1(O)CCC1)[O:21][H:20]>>CC(C)(C(=O)[O:10][H:20])C(C#N)c1ccccc1.O=C(C1(O)CCC1)[O-:21] 10=20;20,21=21",
"C=C(C=C(C)[O-:10])C(C)(C)C.Cc1c[n+:21]([H:20])n(C)c1C>>C=C(C=C(C)[O:10][H:20])C(C)(C)C.Cc1c[n:21]n(C)c1C 10=20;20,21=21",
"C1CCN([N:10]2CCCC2)C1.CCN1C=CC=C([O:21][H:20])C1=O>>C1CCN([N+:10]2([H:20])CCCC2)C1.CCN1C=CC=C([O-:21])C1=O 10=20;20,21=21",
"CC(CC(C#N)(c1ccccc1)c1ccccc1)[N:10]1CCCCC1.CCC[NH+:21](C(C)C(=O)[O-])[H:20]>>CC(CC(C#N)(c1ccccc1)c1ccccc1)[N+:10]1([H:20])CCCCC1.CCC[NH:21]C(C)C(=O)[O-] 10=20;20,21=21",
"CCC[N+:21]1([H:20])CCCCC1.N#CC(C#N)=N[N-:10]c1ccc(Cl)cc1>>CCC[N:21]1CCCCC1.N#CC(C#N)=N[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"CC(C)[NH+:21](CC(O)COc1ccccc1)[H:20].Clc1cccc([S-:10])c1>>CC(C)[NH:21]CC(O)COc1ccccc1.Clc1cccc([S:10][H:20])c1 10=20;20,21=21",
"C[N:10](C)[C@H]1CCC[C@@H]1C#N.Cn1cc[n+:21]([H:20])c1N=[N+]=[N-]>>C[N+:10](C)([C@H]1CCC[C@@H]1C#N)[H:20].Cn1cc[n:21]c1N=[N+]=[N-] 10=20;20,21=21",
"C(C[NH2+]CCc1nnn[n:21]1[H:20])[NH2+]CCc1nnn[n-]1.COc1ccc(Cl)c2ccc[n:10]c12>>C(C[NH2+]CCc1nnn[n-:21]1)[NH2+]CCc1nnn[n-]1.COc1ccc(Cl)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"C#CCC[N+:21](C)(C)[H:20].CC(C[NH3+])C(=O)[O-:10]>>C#CCC[N:21](C)C.CC(C[NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])CC(O[Si](C)(C)C)C1.O=S(=O)([N-]c1ncccn1)c1ccc([O-:10])cc1>>CC(C)(C)[N:21]1CC(O[Si](C)(C)C)C1.O=S(=O)([N-]c1ncccn1)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"Cc1cc([N-:10]S(=O)(=O)c2ccc(N)cc2)nc(C)n1.O=C(CC[N+:21]1([H:20])CCOCC1)c1cccc([N+](=O)[O-])c1>>Cc1cc([N:10](S(=O)(=O)c2ccc(N)cc2)[H:20])nc(C)n1.O=C(CC[N:21]1CCOCC1)c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"CC(C[N:10]1CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CC[NH2+:21][H:20]>>CC(C[N+:10]1([H:20])CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CC[NH2:21] 10=20;20,21=21",
"C[N+:21](C)(CCC(c1ccccc1)c1ccccc1)[H:20].O=C([O-])[C@@H](O)[C@H](C(=O)[O-])[NH2:10]>>C[N:21](C)CCC(c1ccccc1)c1ccccc1.O=C([O-])[C@@H](O)[C@H](C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"CN(C)c1nc2ncncc2[n:21]1[H:20].[O-]c1c(Cl)cc(Cl)cc1C[N:10]1CCOCC1>>CN(C)c1nc2ncncc2[n-:21]1.[O-]c1c(Cl)cc(Cl)cc1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CCCC[NH:10]CCCC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCC[NH+:10](CCCC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccnc(NS(=O)(=O)c2ccccc2)[n+:21]1[H:20].NC(=S)[N-:10]c1cccc([N+](=O)[O-])c1>>Cc1ccnc(NS(=O)(=O)c2ccccc2)[n:21]1.NC(=S)[N:10](c1cccc([N+](=O)[O-])c1)[H:20] 10=20;20,21=21",
"CNC(=O)C=C(c1ccc2c(c1)n(C1CCCC1)c(N)[n+:21]2[H:20])c1ccccc1F.O=C([O-])c1cccc([NH2:10])c1>>CNC(=O)C=C(c1ccc2c(c1)n(C1CCCC1)c(N)[n:21]2)c1ccccc1F.O=C([O-])c1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"CCc1nnn[n:21]1[H:20].O=C(CSc1ccc([N+](=O)[O-])cc1)[O-:10]>>CCc1nnn[n-:21]1.O=C(CSc1ccc([N+](=O)[O-])cc1)[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cnc2c([O-:10])cccc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cnc2c([O:10][H:20])cccc2c1 10=20;20,21=21",
"COc1cc(CO)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cc(CO)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCC[N+:21](CCCCCC)(c1ccccc1)[H:20].NC(=O)/C(=N/[O-:10])c1ccccc1>>CCCCCC[N:21](CCCCCC)c1ccccc1.NC(=O)/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCCCB(O)[O-:10].[S-]CC[NH2+:21][H:20]>>CCCCB(O)[O:10][H:20].[S-]CC[NH2:21] 10=20;20,21=21",
"C=C(C)C=C(C)[O:21][H:20].Nc1cc([O-:10])ccc1O>>C=C(C)C=C(C)[O-:21].Nc1cc([O:10][H:20])ccc1O 10=20;20,21=21",
"CC(=C(CCO)[S:21][H:20])N(C=O)Cc1cnc(C)nc1N.CCN1N=C(c2ccccc2)SC1=[NH:10]>>CC(=C(CCO)[S-:21])N(C=O)Cc1cnc(C)nc1N.CCN1N=C(c2ccccc2)SC1=[NH+:10][H:20] 10=20;20,21=21",
"Brc1ccc(-c2cnc(-c3ccc([NH2:10])cc3)o2)cc1.CNNC1CC[N+:21](C)([H:20])CC1>>Brc1ccc(-c2cnc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1.CNNC1CC[N:21](C)CC1 10=20;20,21=21",
"O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n:10]3)[C@@H](O)[C@H](O)[C@H]1O.O=S1(=O)N=C[N:21]([H:20])c2ncccc21>>O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n+:10]3[H:20])[C@@H](O)[C@H](O)[C@H]1O.O=S1(=O)N=C[N-:21]c2ncccc21 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1.OCC[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1.OCC[O:10][H:20] 10=20;20,21=21",
"CNC(=O)C=C(C)C(=O)[O-:10].NC(=O)c1ccc(N)cc1[O:21][H:20]>>CNC(=O)C=C(C)C(=O)[O:10][H:20].NC(=O)c1ccc(N)cc1[O-:21] 10=20;20,21=21",
"Cc1nc2c([n:21]1[H:20])C(=O)NC([O-])=N2.c1cc2cc([O-:10])ccc2nn1>>Cc1nc2c([n-:21]1)C(=O)NC([O-])=N2.c1cc2cc([O:10][H:20])ccc2nn1 10=20;20,21=21",
"Fc1ccc([O-:10])c(C[NH+]2CCCCC2)c1.O=C(OCc1ccccc1)c1ccc([O:21][H:20])cc1>>Fc1ccc([O:10][H:20])c(C[NH+]2CCCCC2)c1.O=C(OCc1ccccc1)c1ccc([O-:21])cc1 10=20;20,21=21",
